US08431695B2
Step 3: Preparation of 2-(4-Amino-5-bromo-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl)-cyclopropanecarboxylic acid ethyl ester (trans)
To a solution of 2-(4-amino-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl)-cyclopropanecarboxylic acid ethyl ester (4.5 g, 17.2 mmol) in THF (73 mL) cooled to −20° C. was added 2,5-dibromo-4,4-dimethyl-cyclopentane-1,3-dione (2.4 g, 8.6 mmol) in four portions over 15 mins. The mixture was allowed to stir at −20° C. for 2 hours. The mixture was quenched with sodium thiosulfate solution (20 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate (100 mL). The combined organic layer was washed with water, brine, dried by Na2SO4, filtered and concentrated. The residue was purified by Biotage® to give 3.0 g (51%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 7.80 (s, 1 H), 8.75 (bs, 2 H), 6.60 (s, 1 H), 4.0 (m, 2 H), 2.9 (d, 2 H), 1.5 (m, 2 H), 1.2 (t, 3 H), 1.0 (m, 2 H); ES-MS m/z 339.19 [M+H]+, HPLC RT (min) 2.58.

reactant | 2-(4-amino-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl)-cyclopropanecarboxylic acid ethyl ester | 17.2 mmol, 4.5 g | C(C)OC(=O)C1C(C1)CC1=CC=C2C(=NC=NN21)N | C13H16N4O2
reactant | 2,5-dibromo-4,4-dimethyl-cyclopentane-1,3-dione | 8.6 mmol, 2.4 g | BrC1C(C(C(C1=O)(C)C)Br)=O | C7H8Br2O2
solvent | THF | 73 mL | C1CCOC1 | C4H8O
product | 2-(4-Amino-5-bromo-pyrrolo[2,1-f][1,2,4]triazin-7-ylmethyl)-cyclopropanecarboxylic acid ethyl ester | 3.0 g, 51% | C(C)OC(=O)C1C(C1)CC1=CC(=C2C(=NC=NN21)N)Br | C13H15BrN4O2
